US06689922B1
5-{2-[3-(5-Hydroxypentyl)phenyl]vinyl}benzene-1,3-diol
In a manner similar to Example 1(j), by reacting 0.1 ml of concentrated sulphuric acid in 1 ml of methanol with 90 mg (0.2 mmol) of 5-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl]phenyl}pentan-1-ol in 1 ml of methanol and 1 ml of THF, after purification on a silica column (ethyl acetate 60-heptane 40), a white powder (m=33 mg; Y=55%) is obtained.

reactant | sulphuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl]phenyl}pentan-1-ol | 0.2 mmol, 90 mg | C(C)OCOC=1C=C(C=C(C1)OCOCC)C=CC=1C=C(C=CC1)CCCCCO | C25H34O5
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-{2-[3-(5-Hydroxypentyl)phenyl]vinyl}benzene-1,3-diol | OCCCCCC=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O | C19H22O3
